US05714496
Acetyl chloride (2.28 ml) was added dropwise to a solution of 3-allyl-4-hydroxybenzamidoxime (5.4 g) in pyridine (48 ml). The solution was heated at reflux for 16 hours, cooled to ambient temperature and evaporated. The residue was dissolved in ethyl acetate and the solution was washed with saturated aqueous sodium carbonate solution, dried (MgSO4) and evaporated, to give 2-allyl-4-(5-methyl-1,2,4-oxadiazol-3-yl)phenol as a low-melting solid (3.8 g), m/z 217 (M+H).

reactant | Acetyl chloride | 2.28 ml | C(C)(=O)Cl | C2H3ClO
reactant | 3-allyl-4-hydroxybenzamidoxime | 5.4 g | C(C=C)C=1C=C(C(N)=NO)C=CC1O | C10H12N2O2
solvent | pyridine | 48 ml | N1=CC=CC=C1 | C5H5N
product | 2-allyl-4-(5-methyl-1,2,4-oxadiazol-3-yl)phenol | 3.8 g | C(C=C)C1=C(C=CC(=C1)C1=NOC(=N1)C)O | C12H12N2O2
